US09328111B2
A mixture of 12-Oxo-5,6,7,12-tetrahydrobenzo[a]acridine-11-carboxylic acid (0.100 g, 0.34 mmol), K2CO3 (0.234 g, 1.7 mol), iodomethane (0.195 g, 1.37 mol), and DMF (1 mL) was stirred at room temperature for 16 hours, diluted with ethyl acetate (30 mL). The resulting mixture was washed with brine (6×5 ml), dried over Na2SO4, filtered, and concentrated. The remaining residue was chromatographed on silica gel using gradient eluant of 0-30% ethyl acetate in petroleum ether to give methyl 12-methoxy-5,6-dihydrobenzo[a]acridine-11-carboxylate as a light brown solid (20 mg, 56%). 1H NMR (CDC3-d1) δ8.24-8.25 (m, 1H), 8.04-8.06 (m, 1H), 7.76-7.79 (m, 1H), 7.53-7.54 (m, 1H), 7.36-7.40 (m, 3H), 4.03 (s, 3H), 3.66 (s, 3H), 3.16-3.18 (m, 2H), 3.03-3.06 (m, 2H). MS (ESI) m/e [M+1]+320.

reactant | 12-Oxo-5,6,7,12-tetrahydrobenzo[a]acridine-11-carboxylic acid | 0.34 mmol, 0.100 g | O=C1C2=C(C=CC=C2NC=2CCC3=C(C12)C=CC=C3)C(=O)O | C18H13NO3
reactant | K2CO3 | 1.7 mol, 0.234 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 1.37 mol, 0.195 g | IC | CH3I
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 12-methoxy-5,6-dihydrobenzo[a]acridine-11-carboxylate | 20 mg, 56% | COC=1C2=C(C=CC=C2N=C2CCC3=C(C12)C=CC=C3)C(=O)OC | C20H17NO3
